US07625893B2
b) (3S,4R,5R)-3-Hydroxymethyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl) -phenyl]-5-[4-(3-methoxy-propyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester
A solution of 8.526 mmol of (3R,4R,5S)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl) -phenyl]-3-[4-(3-methoxy-propyl)-3-oxo-3,4-dihydro-2H-benzo [1,4]oxazin-6-ylmethoxy]-5-trityloxymethyl-piperidine-1-carboxylic acid benzyl ester in 20 ml of tetrahydrofuran and 80 ml of methanol is treated with 12.789 mmol of toluene-4-sulfonic acid.monohydrate. After stirring for 15 hours, the reaction mixture is basified with saturated aqueous sodium bicarbonate solution and concentrated under reduced pressure to remove most of the methanol and tetrahydrofuran. The residue is extracted with dichloromethane (3×)—the combined organic layers are washed successively with water and brine, dried with sodium sulfate and evaporated. The title compound is obtained as a yellow oil from the residue by flash chromatography (SiO2 60F). Rt=4.86 (gradient I).

reactant | (3R,4R,5S)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl) -phenyl]-3-[4-(3-methoxy-propyl)-3-oxo-3,4-dihydro-2H-benzo [1,4]oxazin-6-ylmethoxy]-5-trityloxymethyl-piperidine-1-carboxylic acid benzyl ester | 8.526 mmol | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H]([C@@H](C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)COC[C@H](COC)C)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C58H64N2O9
reactant | toluene-4-sulfonic acid | 12.789 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 80 ml | CO | CH4O
product | (3S,4R,5R)-3-Hydroxymethyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl) -phenyl]-5-[4-(3-methoxy-propyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1)C1=CC=C(C=C1)COC[C@H](COC)C)CO | C39H50N2O9
